US05401772
(±)-Phenyllactic acid (4.96 g) and 1/2 ml concentrated sulfuric acid in 150 ml absolute ethanol is refluxed for 18 hours. Solvent is stripped, the residue is dissolved in ether, and extracted with saturated sodium bicarbonate solution. The ether is dried, filtered, and stripped to leave (±)-ethyl phenyllactate. NMR (CDCl3): δ1.3 (t, 3H), 3.0 (d of d, 1H), 3.1 (d of d, 1H), 4.2 (q, 2H), 4.4 (d of d, 1H), 7.3 (m, 5H).

reactant | (±)-Phenyllactic acid | 4.96 g | C1(=CC=CC=C1)C(C(=O)O)(O)C | C9H10O3
reactant | sulfuric acid | 1/2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | (±)-ethyl phenyllactate | C1(=CC=CC=C1)C(C(=O)OCC)(O)C | C11H14O3
